US06297235B1
a) 7-t-Butyl-6-chloro-3-dichloromethyl-1,2,4-triazolo[4,3-b]pyridazine
4-t-Butyl-3-chloro-6-hydrazinopyridazine (9.5 g, 48 mmol) and dichloroacetic acid (20 ml) were heated in toluene (130 ml) under Dean Stark conditions for 2.5 hours. The toluene was removed and the residue was poured into water to precipitate the product as a brown solid. The product was purified by chromotography on silica gel using 10% ethyl acetate/dichloromethane as eluant to yield a yellow solid (10.4 g, 74%), 1H NMR (250 MHz, CDCl3) δ 1.59 (9H, s, t-Bu), 6.01 (1H, s, CM), 8.37 (1H, s, ArH); MS (ES+) m/e 293 [MH]+.

reactant | 4-t-Butyl-3-chloro-6-hydrazinopyridazine | 48 mmol, 9.5 g | C(C)(C)(C)C1=C(N=NC(=C1)NN)Cl | C8H13ClN4
reactant | dichloroacetic acid | 20 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | 7-t-Butyl-6-chloro-3-dichloromethyl-1,2,4-triazolo[4,3-b]pyridazine | 10.4 g, 74% | C(C)(C)(C)C1=CC=2N(N=C1Cl)C(=NN2)C(Cl)Cl | C10H11Cl3N4
